US06936636B2
6-Bromo-1,1,4,4-tetramethyl-1,2,3,4-tetrahydronaphthalene (Intermediate 1)
Aluminum chloride (700 mg, 5.25 mmol) was added slowly to a solution of 2,5-dichloro-2,5-dimethylhexane (11 g, 60 mmol) in bromobenzene (90 mL) at 0° C. After stirred for 20 min, the mixture was diluted with 100 mL of ether:hexane (1:1), washed with ice-water (1×10 mL), 10% HCl (1×10 mL) and brine (1×10 mL), dried (MgSO4) and concentrated to afford a brown oil. The crude was then distilled using Coughler distillation to yield the title compound (13.2 g, 83% yield) as a white solid:

reactant | Aluminum chloride | 5.25 mmol, 700 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2,5-dichloro-2,5-dimethylhexane | 60 mmol, 11 g | ClC(C)(CCC(C)(C)Cl)C | C8H16Cl2
reactant | bromobenzene | 90 mL | BrC1=CC=CC=C1 | C6H5Br
solvent | ether hexane | 100 mL | CCOCC.CCCCCC
product | 6-Bromo-1,1,4,4-tetramethyl-1,2,3,4-tetrahydronaphthalene | 13.2 g, 83% yield | BrC=1C=C2C(CCC(C2=CC1)(C)C)(C)C | C14H19Br
